US07786121B2
Step C: N-methyl-N-piperidin-4-yl-acetamide.
To a solution of 4-(acetyl-methyl-amino)-piperidine-1-carboxylic acid tert-butyl ester (525 mg, 2.05 mmol) in AcOEt (5 ml) was added HCl 3N (4 ml). The reaction mixture was stirred at RT for 16 hrs. Solvent were removed under reduced pressure to gine the expected N-methyl-N-piperidin-4-yl-acetamide as its hydrochloride salt (395 mg, quant.).

reactant | 4-(acetyl-methyl-amino)-piperidine-1-carboxylic acid tert-butyl ester | 2.05 mmol, 525 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)N(C)C(C)=O | C13H24N2O3
reactant | HCl | 3N, 4 ml | Cl | ClH
solvent | AcOEt | 5 ml | CCOC(=O)C | C4H8O2
product | N-methyl-N-piperidin-4-yl-acetamide | CN(C(C)=O)C1CCNCC1 | C8H16N2O
